Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of CAD s/p LAD stent in ___, 
stress test suggestive of ischemia who presents with 12 hours of 
Precordial chest pain at rest. She reports the chest pain 
centered over her heart, and radiated to the left arm 
accompanied by Left Arm tingling. She reports no change in the 
chest pain with exertion, and it sometimes was at rest and 
sometimes while ambulating. It primarily occured with 
inspiration, but does not aoccur with every deep inspiration. 
She denies diaphoresis, syncope, nausea/vomitting. She notes the 
chest pain is in the same location as the angina she experienced 
during her cardiac workup in the past, but that the character is 
different.

Of note, the patient had a gastroenteritis approximately 1 week 
prior to admission, which resolved on its own, and she was 
evaluated by the ___ team since then.
 
Past Medical History:
* Coronary artery disease status post left anterior descending 
coronary artery stent x2 in ___  
- Negative stress-MIBI ___  
- Negative stress-ECHO ___  
- Negative stress-ECHO ___  
- stress-ECHO ___: ischemic EKG changes in absence of 
angina; no inducible ischemia on echo  
* Anemia thought to be ___ gastritis  
* Type 2 diabetes.  
* Hypertension.  
* high cholesterol  
* Arthritis.  
* Depression and anxiety.  
* Degenerative disc disease.  
* Status post hysterectomy.  

 
Social History:
___
Family History:
Father with stroke in ___, MI in ___, mother with DM and CHF. 
brother recently died of lymphoma 
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: + Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis, + pleural pain
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 97.9, 108/72, 64, 18, 97%
GEN: NAD, Obese
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L, mild tenderness LSB on deep palpation
COR: RRR, S1/S2, I/VI HSM@base
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal, anxious/flat affect
 
Pertinent Results:
___ 07:23PM BLOOD WBC-6.7 RBC-3.90* Hgb-10.3* Hct-31.1* 
MCV-80* MCH-26.3* MCHC-33.0 RDW-13.8 Plt ___
___ 07:23PM BLOOD Neuts-62.2 ___ Monos-6.2 Eos-2.4 
Baso-0.5
___ 07:45PM BLOOD D-Dimer-1361*
___ 07:23PM BLOOD Glucose-135* UreaN-12 Creat-0.8 Na-140 
K-3.7 Cl-103 HCO3-28 AnGap-13
___ 01:35AM BLOOD CK(CPK)-138
___ 07:23PM BLOOD Lipase-54
___ 01:35AM BLOOD cTropnT-<0.01
___ 01:35AM BLOOD CK-MB-5
___ 07:23PM BLOOD cTropnT-<0.01
___ 07:23PM BLOOD CK-MB-5
___ 07:23PM BLOOD Calcium-9.7 Phos-3.1 Mg-1.6

CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___ 8:47 ___
IMPRESSION:
1. No pulmonary embolism or acute aortic pathology is 
identified.
2. Multiple non-pathologically enlarged lymph nodes are noted 
within the mediastinum.
3. Left anterior descending coronary artery stent is in place.

 
Brief Hospital Course:
1. Pleuritic Chest Pain due to Costochondritis
- I do not feel this pain is ACS, given negative cardiac 
enzymes, no exertional component, pain exacerbated by deep 
inspiration
- CTA was negative for PE or infection
- Note multiple paratracheal lymph nodes, but there is no sign 
of mass or mediastinal infection. However although mediastinitis 
is in the differential the lack of fever or leukocytosis is 
reassuring
- In speaking with the covering rheumatologist, who concurs that 
a toradol trial is reasonable, as they were planning NSAID's 
anyway for osteoarthritis, which she responded to and was pain 
free at time of discharge
- Discharged with 14 day course of BID ___ Naproxen

2. Type 2 Diabetes Controlled
- Hold metformin for dye based study
- NPH/RISS

3. CAD
- S/P Stent, High Risk patient given comorbidities and family 
history
- Atenolol, Lisinopril, Aspirin
- Aware that Aspirin effect is worsened by naproxen and that 
this may be non-viable as a long term strategy in this high-risk 
CAD patient.

4. Benign Hypertension
- Atenolol, Lisinpril

5. Hyperlipidemia
- Niaspan

6. Depression/Fibromyalgia
- Celexa
- Risperdal
- Ambien
 
Medications on Admission:
Celexa 20mg BID
Risperdal 1 BID
Zolpidem 10mg QHS
Niaspan 500 BID
Protonix 40mg BID
Atenolol 50 QHS
Lisinopril 20 Daily
Aspirin 325 Daily
Metformin 1000 BID
Humalog ISS
NPH 50units QAM, 30units QPM
Mycolog QID
Albuterol PRN
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

6. Risperidone 1 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO DAILY (Daily) as needed for Agitation.  
7. Citalopram 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4-6H () as 
needed for chest pain.  
9. Niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO BID (2 times a day).  
10. Nystatin-Triamcinolone 100,000-0.1 unit/g-% Cream Sig: One 
(1) Appl Topical BID (2 times a day) as needed.  
11. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Fifty 
(50) units Subcutaneous once a day.  
12. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Thirty 
(30) units Subcutaneous at bedtime.  
13. Naproxen 500 mg Tablet Sig: One (1) Tablet PO twice a day 
for 14 days.
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochondritis
Coronary artery disease
Type 2 diabetes.  
Hypertension.  
high cholesterol  
Arthritis
Depression and anxiety
 
Discharge Condition:
Good
 
Discharge Instructions:
Return to the hospital if you experience increased pain, 
nausea/vomitting, black/tarry stools, blood in the stool or 
vomit

It is fine to take Tylenol (or tylenol arthritis) at the normal 
dose with the medications we are giving you
 
Followup Instructions:
___